US04202901
The solution of 13.8 g of 5-hydroxy-2-pyridinecarboxylic acid methyl ester in 200 ml of dimethylformamide is added over a period of 45 minutes to a suspension of 4.3 g of sodium hydride in (57% mineral oil dispersion) 50 ml of dimethylformamide with stirring at room temperature. The mixture is stirred at room temperature for one hour and then is cooled to 5°-10°. To this cooled mixture is added a solution of 19.3 g of 1-bromo-3-chloropropane in 100 ml of dimethylformamide. The mixture is heated to 45°-50° and stirred at 45°-50° for 4 hours and 30 minutes. After that, the mixture is cooled, filtered and the filtrate evaporated to a residue. The residue is partitioned between methylene chloride and water and the layers are separated. The methylene chloride layer is washed with water and dried over anhydrous sodium sulfate. The methylene chloride solution is filtered and the filtrate evaporated to yield 5-(3-chloropropoxy)-2 -pyridinecarboxylic acid methyl ester.

reactant | 5-hydroxy-2-pyridinecarboxylic acid methyl ester | 13.8 g | COC(=O)C1=NC=C(C=C1)O | C7H7NO3
reactant | sodium hydride | 4.3 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 19.3 g | BrCCCCl | C3H6BrCl
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(3-chloropropoxy)-2 -pyridinecarboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)OCCCCl | C10H12ClNO3
